US05075461
4-Benzoyloxy-1-dimethylamino-1-hexene-3,5-dione (24.75 g, 90 mmol) is refluxed in 180 ml of acetic acid for 90 minutes. The reaction mixture is concentrated at 30°-35° C. on a rotary evaporator, the residue is dissolved in 200 ml of dichloromethane and washed twice with 100 ml of saturated sodium bicarbonate solution each time. The organic phase is dried over magnesium sulphate, concentrated on a rotary evaporator and gives 20.11 g (97.1%) of 3-benzoyloxy-2-methyl-4-pyrone. Content 86%, m.p. 106°-110° C.

reactant | 4-Benzoyloxy-1-dimethylamino-1-hexene-3,5-dione | 90 mmol, 24.75 g | C(C1=CC=CC=C1)(=O)OC(C(C=CN(C)C)=O)C(C)=O | C15H17NO4
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 3-benzoyloxy-2-methyl-4-pyrone | 20.11 g, 97.1% | C(C1=CC=CC=C1)(=O)OC1=C(OC=CC1=O)C | C13H10O4
